US05434303
A solution of 3.3 g (15.7 mmol) of 2-(4-chlorobenzyl)-2-(1-fluorocyclopropyl)-oxirane in 10 ml of dimethylformamide is added dropwise to a mixture of 3.3 g (47.1 mmol) of 1,2,4-triazole end 0.35 g (3.14 mmol) of potassium tert.-butylate in 20 ml of dimethylformamide at a temperature of 80° C., while stirring. When the addition has ended, the reaction mixture is stirred for 13 hours at 80° C. The solvent is then stripped off under reduced pressure, and the remaining residue is taken up with water. The aqueous phase is extracted four times with methylene chloride. The combined organic phases are dried over sodium sulphate and then concentrated under reduced pressure. The remaining residue is chromatographed over silica over silica gel using cyclohxane:ethylacetate=2:1 as the mobile phase. Evaporation of the eluate gives 2.2 g (47% of theory) of 1-(4-chlorophenyl)-2-(1-fluorocyclopropyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol in form of a solid substance.

reactant | 2-(4-chlorobenzyl)-2-(1-fluorocyclopropyl)-oxirane | 15.7 mmol, 3.3 g | ClC1=CC=C(CC2(OC2)C2(CC2)F)C=C1 | C12H12ClFO
reactant | 1,2,4-triazole | 47.1 mmol, 3.3 g | N1N=CN=C1 | C2H3N3
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(4-chlorophenyl)-2-(1-fluorocyclopropyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol | 2.2 g, 47% | ClC1=CC=C(C=C1)CC(CN1N=CN=C1)(O)C1(CC1)F | C14H15ClFN3O
